US06432949B1
2-[N-(3-dimethylaminopropyl)-N-methylamino]-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide
Using an analogous procedure to that described in Example 21, 2-chloro-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide was reacted with N-(3-dimethylaminopropyl)-N-methylamine to give the title compound in 56% yield; Mass Spectrum: M+H+ 532.

reactant | 2-chloro-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide | ClC1=NC=CC(=C1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C23H22ClN5O3
reactant | N-(3-dimethylaminopropyl)-N-methylamine | CN(CCCNC)C | C6H16N2
product | 2-[N-(3-dimethylaminopropyl)-N-methylamino]-N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-4-carboxamide | 56% yield | CN(CCCN(C)C1=NC=CC(=C1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C)C | C29H37N7O3
